US06310211B1
2-[2-(2-furyl)ethenyl]-8-quinolinol
A mixture of 8-hydroxyquinaldine (5.09 g) and 2-furaldehyde (8.0 mL) are heated at reflux overnight. The reaction is cooled to room temperature. The residue is taken up in acetone and adsorbed onto silica. A silica gel column eluting with 100% CH2Cl2 is run and the product-containing fractions evaporated under reduced pressure to give an orange/yellow oil. The product is crystallized with EtOH/H2O, filtered, washed thoroughly with water, and dried (1.18 g).

reactant | 8-hydroxyquinaldine | 5.09 g | OC=1C=CC=C2C=CC(=NC12)C | C10H9NO
reactant | 2-furaldehyde | 8.0 mL | O1C(=CC=C1)C=O | C5H4O2
solvent | acetone | CC(=O)C | C3H6O
product | 2-[2-(2-furyl)ethenyl]-8-quinolinol | O1C(=CC=C1)C=CC1=NC2=C(C=CC=C2C=C1)O | C15H11NO2
